US05034417
A solution of 3-(2,4-difluorophenylthio)-4-nitrobenzoyl chloride (1 g) in tetrahydrofuran (3 ml) was added to a stirred mixture of aniline (0.306 g) and sodium bicarbonate (0.51 g) in tetrahydrofuran (2 ml) and water (5 ml) at 5° C. The mixture was stirred at 5° C. for 1 hour and at room temperature for 1 hour. Water was added to the reaction mixture and the mixture was extracted with chloroform. The extract was washed with water, dried and evaporated. The residue was washed with ethanol to give yellow crystals of N-phenyl3-(2,4-difluorophenylthio)-4-nitrobenzamide (1.1 g).

reactant | 3-(2,4-difluorophenylthio)-4-nitrobenzoyl chloride | 1 g | FC1=C(C=CC(=C1)F)SC=1C=C(C(=O)Cl)C=CC1[N+](=O)[O-] | C13H6ClF2NO3S
reactant | aniline | 0.306 g | NC1=CC=CC=C1 | C6H7N
reactant | sodium bicarbonate | 0.51 g | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | N-phenyl3-(2,4-difluorophenylthio)-4-nitrobenzamide | 1.1 g | C1(=CC=CC=C1)NC(C1=CC(=C(C=C1)[N+](=O)[O-])SC1=C(C=C(C=C1)F)F)=O | C19H12F2N2O3S
